US04476307
1-(3-Chlorophenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone
By the procedure of Example A1, but substituting an equivalent of dimethylformamide dimethylacetal for the dimethylacetamide dimethylacetal, using first methylene chloride and then 7.5% ethyl acetate in methylene chloride in chromatography and recrystallization from ether-pentane, 1-(3-chlorophenyl)-2(1H,3H)-indolone (10 g, 0.041 mole) was converted to title product, 3.73 g, m.p. 116°-118°.

reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | dimethylacetamide dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1-(3-chlorophenyl)-2(1H,3H)-indolone | 0.041 mole, 10 g | ClC=1C=C(C=CC1)N1C(CC2=CC=CC=C12)=O | C14H10ClNO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-Chlorophenyl)-3-(dimethylaminomethylene)-2(1H,3H)-indolone | ClC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=CN(C)C)=O | C17H15ClN2O
